US05502214
4,5-Dimethoxy-1,2-benzoquinone (672.4 mg, 4 mmol) was dissolved in dichloromethane (40 ml) and stirred in a round-bottomed flask equipped with a cylindrical funnel from which a solution of chloroethylamine hydrochloride (1.2 g, 4.4 mmol) and triethylamine (2.4 ml, 16.8 mmol) in dichloromethane (50 ml) was added dropwise into the solution over the course of one hour. The reaction mixture was maintained with stirring at room temperature for 21 hours. After filtration, the remaining solution was washed with 10% hydrochloric acid, distilled water and then distilled water saturated with sodium chloride, and then dried over magnesium sulfate. Evaporation of the solvent gave the black red crude product. Column chromatography with chloroform: methanol (4:0.5, (v/v)) elution gave 4-chloroethylamino-5-methoxy-1,2-benzoquinone 274.3 mg, 31.8% yield) which was recrystallized from ethanol as red needles: mp 150°-152° C.; Found: C,50.17; H,4.77; N,6.44; Cl,16.39. Anal. Calcd. for C9H10ClNO3 : C,50.13; H,4.67; N,6.49; Cl,16.44%. I.R. υmax 3400, 2940, 1660, 1640, 1620, 1580, 1510, 1250, 1180, 810 cm-1. U.V. λmax (95% EtOH) 210 nm (log ε4.35), 304 (4.23), 464 (3.51), 1HNMR (CDCl3) δ, 3.6 (m, 4H, NCH2CH2), 3.9 (S, 3H, O CH3), 5.4 (S, 1H, 6-H), 5.7 (s, 1H, 3-H), 6.2 (br,s, 1H, NH).

reactant | 4,5-Dimethoxy-1,2-benzoquinone | 4 mmol, 672.4 mg | COC1=CC(C(C=C1OC)=O)=O | C8H8O4
reactant | chloroethylamine hydrochloride | 4.4 mmol, 1.2 g | Cl.ClCCN
reactant | triethylamine | 16.8 mmol, 2.4 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-chloroethylamino-5-methoxy-1,2-benzoquinone | 274.3 mg, 31.8% yield | ClCCNC1=CC(C(C=C1OC)=O)=O | C9H10ClNO3
